US03953432
2-(2-p-Chlorophenylethenyl)-4,4-dimethyl-2-oxazoline (P-1581) was synthesized from 2,4,4-trimethyl-2-oxazoline and p-chlorobenzaldehyde.

reactant | 2,4,4-trimethyl-2-oxazoline | CC=1OCC(N1)(C)C | C6H11NO
reactant | p-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
product | 2-(2-p-Chlorophenylethenyl)-4,4-dimethyl-2-oxazoline | ClC1=CC=C(C=C1)C=CC=1OCC(N1)(C)C | C13H14ClNO
